US08431575B2
A mixture of 1-(3-Bromo-4-cyclohexyloxy-phenyl)-hexan-2-one (7.08 mmol, 2.5 g), oxo-acetic acid ethyl ester solution in toluene (2.8 mL, 50% solution in toluene) and triethylamine (0.5 mL) was stirred at ambient temperature for 16 h. The reaction mixture was diluted with DCM (300 mL), washed with water (3×100 mL), dried the organic layer and concentrated under reduced pressure. The resultant residue was purified by flash silica gel chromatography using mixture of hexanes in ethyl acetate (9:1) to provide 3-(3-bromo-4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-octanoic acid ethyl ester (2.0 g).

reactant | 1-(3-Bromo-4-cyclohexyloxy-phenyl)-hexan-2-one | 7.08 mmol, 2.5 g | BrC=1C=C(C=CC1OC1CCCCC1)CC(CCCC)=O | C18H25BrO2
reactant | oxo-acetic acid ethyl ester | C(C)OC(C=O)=O | C4H6O3
solvent | toluene | 2.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-bromo-4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-octanoic acid ethyl ester | 2.0 g | C(C)OC(C(C(C(CCCC)=O)C1=CC(=C(C=C1)OC1CCCCC1)Br)O)=O | C22H31BrO5
